US08357694B2
Step 3: (R)-3-(6-(2-Fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate.
To a solution of (R)-2-(3-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenyl)ethanol (4.59 g, 11.17 mmol) in dichloromethane (50 mL) was added triethylamine (2.33 mL, 16.75 mmol) and methanesulfonyl chloride (0.95 mL, 12.28 mmol). The mixture was stirred at room temperature for 1 h, washed with water (60 mL×3), dried over sodium sulfate and concentrated to yield the title compound as a yellow solid (5.37 g, 98% yield). 1H-NMR (DMSO-d6) δ 9.59 (s, 1 H), 8.37-8.35 (dd, 1 H), 8.33 (s, 1 H), 7.80 (s, 1 H), 7.71 (d, J=10.4 Hz, 1 H), 7.54-7.45 (m, 2 H), 7.29-7.22 (m, 3 H), 7.07-7.02 (m, 2 H), 6.82-6.78 (m, 2 H), 4.67 (t, J=6.8 Hz, 1 H), 4.45 (t, J=6.8 Hz, 2 H), 3.22-3.08 (m, 2 H), 3.13 (s, 3 H), 3.01 (t, J=6.4 Hz, 2 H). LCMS m/e 490 [M+H].

reactant | (R)-2-(3-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenyl)ethanol | 11.17 mmol, 4.59 g | FC1=C(C=CC=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC=2C=C(C=CC2)CCO | C26H22FN3O
reactant | triethylamine | 16.75 mmol, 2.33 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.28 mmol, 0.95 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (R)-3-(6-(2-Fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | 5.37 g, 98% yield | CS(=O)(=O)OCCC1=CC(=CC=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=C(C=CC=C1)F)C=CC=C3 | C27H24FN3O3S
